US05324451
Synthesis of 4-[(S)-2-methylbutoxycarbonyl]phenyl 4-[(S)-2-propoxypropanoyloxy]benzoate
In 12 ml of methylene chloride were dissolved 107 mg of 4-[2-(S)-propoxypropanoyloxy]benzoic acid, 95 mg of 4-[(S)-2-methyl butoxycarbonyl]phenol, and 140 mg of dicyclohexylcarbodiimide, and a catalytic amount of 4-dimethylaminopyridine was added to the solution, followed by stirring at room temperature. After 5 hours, diethyl ether was added to the reaction mixture, and any insoluble matter was removed by filtration. The filtrate was washed successively with a 10% hydrochloric acid aqueous solution, a saturated sodium bicarbonate aqueous solution, water, and a saturated sodium chloride aqueous solution, and dried over sodium sulfate. The solvent was removed from the residue by distillation, and the resulting oily substance was purified by silica gel column chromatography to obtain 139 mg of the entitled compound as a transparent oily substance. This compound did not crystalize even when allowed to stand at room temperature or less for a long time. The structure of the compound was confirmed by NMR and IR spectra.

reactant | 4-[2-(S)-propoxypropanoyloxy]benzoic acid | 107 mg | C(CC)O[C@H](C(=O)OC1=CC=C(C(=O)O)C=C1)C | C13H16O5
reactant | 4-[(S)-2-methyl butoxycarbonyl]phenol | 95 mg | C[C@H](COC(=O)C1=CC=C(C=C1)O)CC | C12H16O3
reactant | dicyclohexylcarbodiimide | 140 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-[(S)-2-methylbutoxycarbonyl]phenyl 4-[(S)-2-propoxypropanoyloxy]benzoate | 139 mg | C(CC)O[C@H](C(=O)OC1=CC=C(C(=O)OC2=CC=C(C=C2)C(=O)OC[C@H](CC)C)C=C1)C | C25H30O7
